* Copyright © Linear Technology Corp. 2012.  All rights reserved.
*
.subckt LTC6655-1.25 1 2 3 4 5
B2 N004 0 I=10u*(V(4,GNDS)-1.25004) + -1e-5*V(OUTS,5)
C10 N004 0 1f Rpar=100K noiseless
D9 N006 0 DLIM
C13 2 3 1000p
M1 OUTS N010 GNDS GNDS NI temp=27
C2 2 OUTS .1p Rpar=100Meg noiseless
M2 OUTS N003 2 2 PI temp=27
C3 OUTS 3 .1p Rpar=10k noiseless
M3 N003 N003 2 2 PI temp=27 M=10m
M4 N010 N010 3 3 NI temp=27 M=10m
A3 0 N006 2 2 2 2 N010 2 OTA g=.2m asym isource=192u isink=-10u vlow=-1e308 vhigh=1e308
C4 N006 N005 600p Rser=70k noiseless
C6 2 N003 1p
C7 N010 3 1p
C8 2 N009 1p
G1 3 N004 3 N009 60µ
R2 GNDS 3 10m noiseless
D3 OUTS GNDS DIVOS
A2 0 N006 3 3 3 3 N003 3 OTA g=.6m asym isource=1u Isink=-204u Vlow=-1e308 Vhigh=1e308
C11 GNDS 3 1p
D5 4 3 DSNK
D6 2 1 DSRC
C12 4 3 100f Rpar=100k noiseless
L1 N005 0 16.24 noiseless Rser=1020 Rpar=50k Cpar=50p
A4 N005 0 N008 0 0 0 N006 0 OTA g=50u iout=500u Cout=1f Vlow=-1e308 Vhigh=1e308
S1 0 N006 0 N008 SSD
A1 0 N004 N008 0 0 0 N005 0 OTA g=1m iout=20u enk=1 en=19n/(1+freq/350e3) Vlow=-1e308 Vhigh=1e308
S2 3 N003 N008 0 SIMIN
G4 2 N004 3 2 125p
C1 N009 3 500p Rpar=100k noiseless
G3 0 N001 5 2 50µ
C9 N001 0 1p Rpar=20k noiseless
G2 0 N006 N001 0 10m vto=-30m dir=1
R1 5 OUTS 1m
S3 3 2 N008 0 SP
A6 1 3 0 0 0 0 N008 0 SCHMITT vt=1.4 vh=.6 trise=4u tfall=20u
.model SP SW(level=2 Ron=500 Roff=100Meg vt=.5 vh=-.3 ilimit=2.6m)
.model PI VDMOS(Vto=-300m Kp=80m  pchan Cgdmax=200p Cgdmin=200p  Cgs=10p oneway)
.model NI VDMOS(Vto=300m Kp=40m Cgdmax=400p Cgdmin=400p Cgs=10p)
.model DLIM D(Ron=100 Roff=100Meg Vfwd=1.5 Vrev=700m epsilon=100m revepsilon=100m noiseless)
.model DIVOS D(Ron=1k Roff=1g vfwd=1 epsilon=1 ilimit=100u noiseless)
.model DSNK D(Ron=100 Roff=1Meg vfwd=500m epsilon=500m ilimit=2m noiseless)
.model DSRC D(Ron=1k Roff=1Meg vfwd=500m epsilon=500m ilimit=10u noiseless)
.model SSD SW(Ron=10 Roff=1G vt=-.5 vh=-.3 noiseless)
.model SIMIN SW(level=2 Ron=100 Roff=1G vt=.5 vh=-.2 ilimit=2.7u noiseless)
.ends LTC6655-1.25
*
.subckt LTC6655-2.048 1 2 3 4 5
B2 N004 0 I=10u*(V(4,GNDS)-2.04804)
C10 N004 0 1f Rpar=100K noiseless
D9 N006 0 DLIM
C13 2 3 1000p
M1 OUTS N010 GNDS GNDS NI temp=27
C2 2 OUTS .1p Rpar=100Meg noiseless
M2 OUTS N003 2 2 PI temp=27
C3 OUTS 3 .1p Rpar=10k noiseless
M3 N003 N003 2 2 PI temp=27 M=10m
M4 N010 N010 3 3 NI temp=27 M=10m
A3 0 N006 2 2 2 2 N010 2 OTA g=.2m asym isource=192u isink=-10u vlow=-1e308 vhigh=1e308
C4 N006 N005 600p Rser=70k noiseless
C6 2 N003 1p
C7 N010 3 1p
C8 2 N009 1p
G1 3 N004 3 N009 60µ
D3 OUTS GNDS DIVOS
A2 0 N006 3 3 3 3 N003 3 OTA g=.6m asym isource=1u Isink=-204u Vlow=-1e308 Vhigh=1e308
C11 GNDS 3 1p Rpar=18m noiseless
D5 4 3 DSNK
D6 2 1 DSRC
C12 4 3 100f Rpar=100k noiseless
L1 N005 0 16.24 noiseless Rser=1020 Rpar=50k Cpar=50p
A4 N005 0 N008 0 0 0 N006 0 OTA g=50u iout=500u Cout=1f Vlow=-1e308 Vhigh=1e308
S1 0 N006 0 N008 SSD
A1 0 N004 N008 0 0 0 N005 0 OTA g=1m iout=20u en=39n*(1+freq/5k)**1.18/(1+freq/3k) enk=1 Vlow=-1e308 Vhigh=1e308
S2 3 N003 N008 0 SIMIN
G4 2 N004 3 2 125p
C1 N009 3 500p Rpar=100k noiseless
G3 0 N001 5 2 50µ
C9 N001 0 1p Rpar=20k noiseless
G2 0 N006 N001 0 10m vto=-30m dir=1
R1 5 OUTS 1m
S3 3 2 N008 0 SP
A6 1 3 0 0 0 0 N008 0 SCHMITT vt=1.4 vh=.6 trise=4u tfall=20u
S4 N006 0 3 2 SPOFF
S5 2 N003 3 2 SPOFF
.model SP SW(level=2 Ron=500 Roff=100Meg vt=.5 vh=-.3 ilimit=2.6m)
.model PI VDMOS(Vto=-300m Kp=80m  pchan Cgdmax=200p Cgdmin=200p  Cgs=10p oneway)
.model NI VDMOS(Vto=300m Kp=40m Cgdmax=400p Cgdmin=400p Cgs=10p)
.model DLIM D(Ron=100 Roff=100Meg Vfwd=1.5 Vrev=700m epsilon=100m revepsilon=100m noiseless)
.model DIVOS D(Ron=1k Roff=1g vfwd=1 epsilon=1 ilimit=100u noiseless)
.model DSNK D(Ron=100 Roff=1Meg vfwd=500m epsilon=500m ilimit=2m noiseless)
.model DSRC D(Ron=1k Roff=1Meg vfwd=500m epsilon=500m ilimit=10u noiseless)
.model SSD SW(Ron=10 Roff=1G vt=-.5 vh=-.3 noiseless)
.model SPOFF SW(Ron=1 Roff=1G vt=-2 vh=-500m)
.model SIMIN SW(level=2 Ron=100 Roff=1G vt=.5 vh=-.2 ilimit=2.7u noiseless)
.ends LTC6655-2.048
*
.subckt LTC6655-2.5 1 2 3 4 5
B2 N004 0 I=10u*(V(4,GNDS)-2.500045) + 1e-5*V(OUTS,5)
C10 N004 0 1f Rpar=100K noiseless
D9 N006 0 DLIM
C13 2 3 1000p
M1 OUTS N010 GNDS GNDS NI temp=27
C2 2 OUTS .1p Rpar=100Meg noiseless
M2 OUTS N003 2 2 PI temp=27
C3 OUTS 3 .1p Rpar=10k noiseless
M3 N003 N003 2 2 PI temp=27 M=10m
M4 N010 N010 3 3 NI temp=27 M=10m
A3 0 N006 2 2 2 2 N010 2 OTA g=.2m asym isource=192u isink=-10u vlow=-1e308 vhigh=1e308
C4 N006 N005 600p Rser=70k noiseless
C6 2 N003 1p
C7 N010 3 1p
C8 2 N009 1p
G1 3 N004 3 N009 60µ
D3 OUTS GNDS DIVOS
A2 0 N006 3 3 3 3 N003 3 OTA g=.6m asym isource=1u Isink=-204u Vlow=-1e308 Vhigh=1e308
C11 GNDS 3 1p Rpar=18m noiseless
D5 4 3 DSNK
D6 2 1 DSRC
C12 4 3 100f Rpar=100k noiseless
L1 N005 0 16.24 noiseless Rser=1020 Rpar=50k Cpar=50p
A4 N005 0 N008 0 0 0 N006 0 OTA g=50u iout=500u Cout=1f Vlow=-1e308 Vhigh=1e308
S1 0 N006 0 N008 SSD
A1 0 N004 N008 0 0 0 N005 0 OTA g=1m iout=20u en=50n*(1+freq/5k)**1.18/(1+freq/3k) enk=1 Vlow=-1e308 Vhigh=1e308
S2 3 N003 N008 0 SIMIN
G4 2 N004 3 2 125p
C1 N009 3 500p Rpar=100k noiseless
G3 0 N001 5 2 50µ
C9 N001 0 1p Rpar=20k noiseless
G2 0 N006 N001 0 10m vto=-30m dir=1
R1 5 OUTS 1m
S3 3 2 N008 0 SP
A6 1 3 0 0 0 0 N008 0 SCHMITT vt=1.4 vh=.6 trise=4u tfall=20u
S4 N006 0 3 2 SPOFF
S5 2 N003 3 2 SPOFF
.model SP SW(level=2 Ron=500 Roff=100Meg vt=.5 vh=-.3 ilimit=2.6m)
.model PI VDMOS(Vto=-300m Kp=80m  pchan Cgdmax=200p Cgdmin=200p  Cgs=10p oneway)
.model NI VDMOS(Vto=300m Kp=40m Cgdmax=400p Cgdmin=400p Cgs=10p)
.model DLIM D(Ron=100 Roff=100Meg Vfwd=1.5 Vrev=700m epsilon=100m revepsilon=100m noiseless)
.model DIVOS D(Ron=1k Roff=1g vfwd=1 epsilon=1 ilimit=100u noiseless)
.model DSNK D(Ron=100 Roff=1Meg vfwd=500m epsilon=500m ilimit=2m noiseless)
.model DSRC D(Ron=1k Roff=1Meg vfwd=500m epsilon=500m ilimit=10u noiseless)
.model SSD SW(Ron=10 Roff=1G vt=-.5 vh=-.3 noiseless)
.model SPOFF SW(Ron=1 Roff=1G vt=-2 vh=-500m)
.model SIMIN SW(level=2 Ron=100 Roff=1G vt=.5 vh=-.2 ilimit=2.7u noiseless)
.ends LTC6655-2.5
*
.subckt LTC6655-3.3 1 2 3 4 5
B2 N004 0 I=10u*(V(4,GNDS)-3.30005) + 1.64e-5*V(OUTS,5)
C10 N004 0 1f Rpar=100K noiseless
D9 N006 0 DLIM
C13 2 3 1000p
M1 OUTS N010 GNDS GNDS NI temp=27
C2 2 OUTS .1p Rpar=100Meg noiseless
M2 OUTS N003 2 2 PI temp=27
C3 OUTS 3 .1p Rpar=10k noiseless
M3 N003 N003 2 2 PI temp=27 M=10m
M4 N010 N010 3 3 NI temp=27 M=10m
A3 0 N006 2 2 2 2 N010 2 OTA g=.2m asym isource=192u isink=-10u vlow=-1e308 vhigh=1e308
C4 N006 N005 600p Rser=70k noiseless
C6 2 N003 1p
C7 N010 3 1p
C8 2 N009 1p
G1 3 N004 3 N009 60µ
D3 OUTS GNDS DIVOS
A2 0 N006 3 3 3 3 N003 3 OTA g=.6m asym isource=1u Isink=-204u Vlow=-1e308 Vhigh=1e308
C11 GNDS 3 1p Rpar=18m noiseless
D5 4 3 DSNK
D6 2 1 DSRC
C12 4 3 100f Rpar=100k noiseless
L1 N005 0 16.24 noiseless Rser=1020 Rpar=50k Cpar=50p
A4 N005 0 N008 0 0 0 N006 0 OTA g=50u iout=500u Cout=1f Vlow=-1e308 Vhigh=1e308
S1 0 N006 0 N008 SSD
A1 0 N004 N008 0 0 0 N005 0 OTA g=1m iout=20u en=62.8n*(1+freq/5k)**1.18/(1+freq/3k) enk=1 Vlow=-1e308 Vhigh=1e308
S2 3 N003 N008 0 SIMIN
G4 2 N004 3 2 125p
C1 N009 3 500p Rpar=100k noiseless
G3 0 N001 5 2 50µ
C9 N001 0 1p Rpar=20k noiseless
G2 0 N006 N001 0 10m vto=-30m dir=1
R1 5 OUTS 1m
S3 3 2 N008 0 SP
A6 1 3 0 0 0 0 N008 0 SCHMITT vt=1.4 vh=.6 trise=4u tfall=20u
S4 N006 0 3 2 SPOFF
S5 2 N003 3 2 SPOFF
.model SP SW(level=2 Ron=500 Roff=100Meg vt=.5 vh=-.3 ilimit=2.6m)
.model PI VDMOS(Vto=-300m Kp=80m  pchan Cgdmax=200p Cgdmin=200p  Cgs=10p oneway)
.model NI VDMOS(Vto=300m Kp=40m Cgdmax=400p Cgdmin=400p Cgs=10p)
.model DLIM D(Ron=100 Roff=100Meg Vfwd=1.5 Vrev=700m epsilon=100m revepsilon=100m noiseless)
.model DIVOS D(Ron=1k Roff=1g vfwd=1 epsilon=1 ilimit=100u noiseless)
.model DSNK D(Ron=100 Roff=1Meg vfwd=500m epsilon=500m ilimit=2m noiseless)
.model DSRC D(Ron=1k Roff=1Meg vfwd=500m epsilon=500m ilimit=10u noiseless)
.model SSD SW(Ron=10 Roff=1G vt=-.5 vh=-.3 noiseless)
.model SPOFF SW(Ron=1 Roff=1G vt=-2 vh=-500m)
.model SIMIN SW(level=2 Ron=100 Roff=1G vt=.5 vh=-.2 ilimit=2.7u noiseless)
.ends LTC6655-3.3
*
.subckt LTC6655-3 1 2 3 4 5
B2 N004 0 I=10u*(V(4,GNDS)-3.00005) + 1.4e-5*V(OUTS,5)
C10 N004 0 1f Rpar=100K noiseless
D9 N006 0 DLIM
C13 2 3 1000p
M1 OUTS N010 GNDS GNDS NI temp=27
C2 2 OUTS .1p Rpar=100Meg noiseless
M2 OUTS N003 2 2 PI temp=27
C3 OUTS 3 .1p Rpar=10k noiseless
M3 N003 N003 2 2 PI temp=27 M=10m
M4 N010 N010 3 3 NI temp=27 M=10m
A3 0 N006 2 2 2 2 N010 2 OTA g=.2m asym isource=192u isink=-10u vlow=-1e308 vhigh=1e308
C4 N006 N005 600p Rser=70k noiseless
C6 2 N003 1p
C7 N010 3 1p
C8 2 N009 1p
G1 3 N004 3 N009 60µ
D3 OUTS GNDS DIVOS
A2 0 N006 3 3 3 3 N003 3 OTA g=.6m asym isource=1u Isink=-204u Vlow=-1e308 Vhigh=1e308
C11 GNDS 3 1p Rpar=18m noiseless
D5 4 3 DSNK
D6 2 1 DSRC
C12 4 3 100f Rpar=100k noiseless
L1 N005 0 16.24 noiseless Rser=1020 Rpar=50k Cpar=50p
A4 N005 0 N008 0 0 0 N006 0 OTA g=50u iout=500u Cout=1f Vlow=-1e308 Vhigh=1e308
S1 0 N006 0 N008 SSD
A1 0 N004 N008 0 0 0 N005 0 OTA g=1m iout=20u en=58n*(1+freq/5k)**1.18/(1+freq/3k) enk=1 Vlow=-1e308 Vhigh=1e308
S2 3 N003 N008 0 SIMIN
G4 2 N004 3 2 125p
C1 N009 3 500p Rpar=100k noiseless
G3 0 N001 5 2 50µ
C9 N001 0 1p Rpar=20k noiseless
G2 0 N006 N001 0 10m vto=-30m dir=1
R1 5 OUTS 1m
S3 3 2 N008 0 SP
A6 1 3 0 0 0 0 N008 0 SCHMITT vt=1.4 vh=.6 trise=4u tfall=20u
S4 N006 0 3 2 SPOFF
S5 2 N003 3 2 SPOFF
.model SP SW(level=2 Ron=500 Roff=100Meg vt=.5 vh=-.3 ilimit=2.6m)
.model PI VDMOS(Vto=-300m Kp=80m  pchan Cgdmax=200p Cgdmin=200p  Cgs=10p oneway)
.model NI VDMOS(Vto=300m Kp=40m Cgdmax=400p Cgdmin=400p Cgs=10p)
.model DLIM D(Ron=100 Roff=100Meg Vfwd=1.5 Vrev=700m epsilon=100m revepsilon=100m noiseless)
.model DIVOS D(Ron=1k Roff=1g vfwd=1 epsilon=1 ilimit=100u noiseless)
.model DSNK D(Ron=100 Roff=1Meg vfwd=500m epsilon=500m ilimit=2m noiseless)
.model DSRC D(Ron=1k Roff=1Meg vfwd=500m epsilon=500m ilimit=10u noiseless)
.model SSD SW(Ron=10 Roff=1G vt=-.5 vh=-.3 noiseless)
.model SPOFF SW(Ron=1 Roff=1G vt=-2 vh=-500m)
.model SIMIN SW(level=2 Ron=100 Roff=1G vt=.5 vh=-.2 ilimit=2.7u noiseless)
.ends LTC6655-3
*
.subckt LTC6655-4.096 1 2 3 4 5
B2 N004 0 I=10u*(V(4,GNDS)-4.09607) + 2.28e-5*V(OUTS,5)
C10 N004 0 1f Rpar=100K noiseless
D9 N006 0 DLIM
C13 2 3 1000p
M1 OUTS N010 GNDS GNDS NI temp=27
C2 2 OUTS .1p Rpar=100Meg noiseless
M2 OUTS N003 2 2 PI temp=27
C3 OUTS 3 .1p Rpar=10k noiseless
M3 N003 N003 2 2 PI temp=27 M=10m
M4 N010 N010 3 3 NI temp=27 M=10m
A3 0 N006 2 2 2 2 N010 2 OTA g=.2m asym isource=192u isink=-10u vlow=-1e308 vhigh=1e308
C4 N006 N005 600p Rser=70k noiseless
C6 2 N003 1p
C7 N010 3 1p
C8 2 N009 1p
G1 3 N004 3 N009 60µ
D3 OUTS GNDS DIVOS
A2 0 N006 3 3 3 3 N003 3 OTA g=.6m asym isource=1u Isink=-204u Vlow=-1e308 Vhigh=1e308
C11 GNDS 3 1p Rpar=18m noiseless
D5 4 3 DSNK
D6 2 1 DSRC
C12 4 3 100f Rpar=100k noiseless
L1 N005 0 16.24 noiseless Rser=1020 Rpar=50k Cpar=50p
A4 N005 0 N008 0 0 0 N006 0 OTA g=50u iout=500u Cout=1f Vlow=-1e308 Vhigh=1e308
S1 0 N006 0 N008 SSD
A1 0 N004 N008 0 0 0 N005 0 OTA g=1m iout=20u en=75.5n*(1+freq/5k)**1.18/(1+freq/3k) enk=1 Vlow=-1e308 Vhigh=1e308
S2 3 N003 N008 0 SIMIN
G4 2 N004 3 2 125p
C1 N009 3 500p Rpar=100k noiseless
G3 0 N001 5 2 50µ
C9 N001 0 1p Rpar=20k noiseless
G2 0 N006 N001 0 10m vto=-30m dir=1
R1 5 OUTS 1m
S3 3 2 N008 0 SP
A6 1 3 0 0 0 0 N008 0 SCHMITT vt=1.4 vh=.6 trise=4u tfall=20u
S4 N006 0 3 2 SPOFF
S5 2 N003 3 2 SPOFF
.model SP SW(level=2 Ron=500 Roff=100Meg vt=.5 vh=-.3 ilimit=2.6m)
.model PI VDMOS(Vto=-300m Kp=80m  pchan Cgdmax=200p Cgdmin=200p  Cgs=10p oneway)
.model NI VDMOS(Vto=300m Kp=40m Cgdmax=400p Cgdmin=400p Cgs=10p)
.model DLIM D(Ron=100 Roff=100Meg Vfwd=1.5 Vrev=700m epsilon=100m revepsilon=100m noiseless)
.model DIVOS D(Ron=1k Roff=1g vfwd=1 epsilon=1 ilimit=100u noiseless)
.model DSNK D(Ron=100 Roff=1Meg vfwd=500m epsilon=500m ilimit=2m noiseless)
.model DSRC D(Ron=1k Roff=1Meg vfwd=500m epsilon=500m ilimit=10u noiseless)
.model SSD SW(Ron=10 Roff=1G vt=-.5 vh=-.3 noiseless)
.model SPOFF SW(Ron=1 Roff=1G vt=-2 vh=-500m)
.model SIMIN SW(level=2 Ron=100 Roff=1G vt=.5 vh=-.2 ilimit=2.7u noiseless)
.ends LTC6655-4.096
*
.subckt LTC6655-5 1 2 3 4 5
C10 N004 0 1f Rpar=100K noiseless
D9 N006 0 DLIM
C13 2 3 1000p
M1 OUTS N010 GNDS GNDS NI temp=27
C2 2 OUTS .1p Rpar=100Meg noiseless
M2 OUTS N003 2 2 PI temp=27
C3 OUTS 3 .1p Rpar=10k noiseless
M3 N003 N003 2 2 PI temp=27 M=10m
M4 N010 N010 3 3 NI temp=27 M=10m
A3 0 N006 2 2 2 2 N010 2 OTA g=.2m asym isource=192u isink=-10u vlow=-1e308 vhigh=1e308
C4 N006 N005 600p Rser=70k noiseless
C6 2 N003 1p
C7 N010 3 1p
C8 2 N009 1p
G1 3 N004 3 N009 60µ
D3 OUTS GNDS DIVOS
A2 0 N006 3 3 3 3 N003 3 OTA g=.6m asym isource=1u Isink=-204u Vlow=-1e308 Vhigh=1e308
C11 GNDS 3 1p Rpar=18m noiseless
D5 4 3 DSNK
D6 2 1 DSRC
C12 4 3 100f Rpar=100k noiseless
L1 N005 0 16.24 noiseless Rser=1020 Rpar=50k Cpar=50p
A4 N005 0 N008 0 0 0 N006 0 OTA g=50u iout=500u Cout=1f Vlow=-1e308 Vhigh=1e308
S1 0 N006 0 N008 SSD
A1 0 N004 N008 0 0 0 N005 0 OTA g=1m iout=20u enk=1 en=90n*(1+freq/5k)**1.18/(1+freq/3k) vlow=-1e308 vhigh=1e308
S2 3 N003 N008 0 SIMIN
G4 2 N004 3 2 125p
C1 N009 3 500p Rpar=100k noiseless
G3 0 N001 5 2 50µ
C9 N001 0 1p Rpar=20k noiseless
G2 0 N006 N001 0 10m vto=-30m dir=1
R1 5 OUTS 1m
S3 3 2 N008 0 SP
A6 1 3 0 0 0 0 N008 0 SCHMITT vt=1.4 vh=.6 trise=4u tfall=20u
S4 N006 0 3 2 SPOFF
S5 2 N003 3 2 SPOFF
B1 N004 0 I=10u*(V(4,GNDS)-5.00008) + 3e-5*V(OUTS,5)
.model SP SW(level=2 Ron=500 Roff=100Meg vt=.5 vh=-.3 ilimit=2.6m)
.model PI VDMOS(Vto=-300m Kp=80m  pchan Cgdmax=200p Cgdmin=200p  Cgs=10p oneway)
.model NI VDMOS(Vto=300m Kp=40m Cgdmax=400p Cgdmin=400p Cgs=10p)
.model DLIM D(Ron=100 Roff=100Meg Vfwd=1.5 Vrev=700m epsilon=100m revepsilon=100m noiseless)
.model DIVOS D(Ron=1k Roff=1g vfwd=1 epsilon=1 ilimit=100u noiseless)
.model DSNK D(Ron=100 Roff=1Meg vfwd=500m epsilon=500m ilimit=2m noiseless)
.model DSRC D(Ron=1k Roff=1Meg vfwd=500m epsilon=500m ilimit=10u noiseless)
.model SSD SW(Ron=10 Roff=1G vt=-.5 vh=-.3 noiseless)
.model SPOFF SW(Ron=1 Roff=1G vt=-2 vh=-500m)
.model SIMIN SW(level=2 Ron=100 Roff=1G vt=.5 vh=-.2 ilimit=2.7u noiseless)
.ends LTC6655-5
